US04499103
6-Nitro-2-benzothiazolesulfonamide (2.93 g., 0.0113 mole) suspended in absolute ethanol (200 ml.) was hydrogenated in the presence of 5% palladium on carbon (2.9 g.) in a Parr apparatus. After 5 hrs. the reaction mixture was filtered to remove the catalyst, and the filtrate was concentrated to dryness to give the solid product. Recrystallization from ethyl acetate and reprecipitation by dissolution in dilute aqueous hydrochloric acid followed by treatment with aqueous sodium bicarbonate solution gave 680 mg 6-amino-2-benzothiazolesulfonamide, m.p. 227°-9° C. dec.

reactant | 6-Nitro-2-benzothiazolesulfonamide | 0.0113 mole, 2.93 g | [N+](=O)([O-])C1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H5N3O4S2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 2.9 g | [Pd] | Pd
product | 6-amino-2-benzothiazolesulfonamide | 680 mg | NC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H7N3O2S2
